US07288553B2
2-(5-Fluoro-6-trifluoromethyl-1H-indol-2-yl)-1-(2,2,2-trifluoro-ethylsulfanyl)-butan-2-ol
This compound was prepared using the general de-protection procedure as describe in General Procedures Example B, reacting 2-(5-fluoro-1-methanesulfonyl-6-trifluoromethyl-1H-indol-2-yl)-1-(2,2,2-trifluoro-ethylsulfanyl)-butan-2-ol (0.59 g, 1.26 mmol) and using 4N sodium hydroxide as base (1 mL, 4.0 mmol) to yield the title cmpound as a solid.

reactant | 2-(5-fluoro-1-methanesulfonyl-6-trifluoromethyl-1H-indol-2-yl)-1-(2,2,2-trifluoro-ethylsulfanyl)-butan-2-ol | 1.26 mmol, 0.59 g | FC=1C=C2C=C(N(C2=CC1C(F)(F)F)S(=O)(=O)C)C(CSCC(F)(F)F)(CC)O | C16H16F7NO3S2
reactant | sodium hydroxide | 4N | [OH-].[Na+]
product | 2-(5-Fluoro-6-trifluoromethyl-1H-indol-2-yl)-1-(2,2,2-trifluoro-ethylsulfanyl)-butan-2-ol | FC=1C=C2C=C(NC2=CC1C(F)(F)F)C(CSCC(F)(F)F)(CC)O | C15H14F7NOS
